US05086064
A mixture of 11.7 g (0.05 mole) of 3,5-di-tert-butyl-4-hydroxybenzaldehyde and 19.4 g (0.15 mole) of diisopropylethylamine in 150 mL of CH2Cl2 is treated with 18.7 g (0.15 mole) of 2-methoxyethoxymethyl chloride (MEM-Cl) and the resulting solution is heated under reflux for 48 hours and evaporated to dryness. The residue is taken up in CH2Cl2, washed with 1N HCl and brine, and dried with MgSO4. The solution is evaporated and the residue is filtered through flash grade silica gel, washing with 1:1 CH2Cl2 /n-hexane. Evaporation gives a tan oil, 12.2 g of 3,5-bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy)methoxy]benzaldehyde (76%) which is used without further purification.

reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | 0.05 mole, 11.7 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | diisopropylethylamine | 0.15 mole, 19.4 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-methoxyethoxymethyl chloride | 0.15 mole, 18.7 g | COCCOCCl | C4H9ClO2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 3,5-bis(1,1-dimethylethyl)-4-[(2-methoxyethoxy)methoxy]benzaldehyde | 12.2 g, 76% | CC(C)(C)C=1C=C(C=O)C=C(C1OCOCCOC)C(C)(C)C | C19H30O4
